US05081121
The N-methoxycarbonyl-3-hydroxy-4-methoxyaniline (34.0 g) was dissolved in dimethylformamide (200 ml). Potassium carbonate (29.0 g) and trans-crotyl chloride (32.2 g) were added to the solution, and the mixture was stirred at room temperature for 5 hours. Water was added to the reaction mixture, and extraction was carried out with ethyl acetate. The extract was washed with saturated saline and dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The crude crystal thus obtained was recrystallized from ethyl acetate-n-hexane to obtain N-methoxycarbonyl-3-(2-trans-butenyl)oxy-4-methoxyaniline (39.5 g).

reactant | N-methoxycarbonyl-3-hydroxy-4-methoxyaniline | 34.0 g | COC(=O)NC1=CC(=C(C=C1)OC)O | C9H11NO4
reactant | Potassium carbonate | 29.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | trans-crotyl chloride | 32.2 g | C(\C=C\C)Cl | C4H7Cl
reactant | Water | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methoxycarbonyl-3-(2-trans-butenyl)oxy-4-methoxyaniline | 39.5 g | COC(=O)NC1=CC(=C(C=C1)OC)O\C=C\CC | C13H17NO4
